US05686424
Using the procedure described in Example 5, treatment of a solution of L-proline-L-isoleucine benzylamide (56 mg, 0.18 mmol), with triethylamine (123 uL, 0.88 mmol, 5.0 eq), and 2-bromo-4'-fluoroacetophenone (37 mg, 0.21 mmol, 1.2 eq) in THF (7 mL), provided a crude product. A portion of the product was purified by preparative TLC to provide 28 mg (35%) of L-isoleucine, N-[1-(2-(4-fluorophenyl)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-proline L-isoleucine benzylamide | 0.18 mmol, 56 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 0.88 mmol, 123 uL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-4'-fluoroacetophenone | 0.21 mmol, 37 mg, 1.2 eq | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-(4-fluorophenyl)-2-oxoethyl)-L-prolyl] benzylamide | 28 mg, 35% | FC1=CC=C(C=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C26H32FN3O3
